US08304557B2
N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide
A mixture of ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-5-methylphenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate (2.65 g, 4.76 mmol), hydroxylammonium chloride (2.96 g, 42.5 mmol), N,N-diisopropylethylamine (5.00 mL, 28.7 mmol), ethanol (100 mL) and methanol (100 mL) was stirred at 80° C. for 14 hr. The reaction solution was concentrated under reduced pressure. Ethyl acetate was added to the residue, and the mixture was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure and washed with ethanol-ethyl acetate to give the title compound (1.29 g, 72%) as a white solid.

reactant | ethyl ({[5-(3-{[(1,3-dimethyl-1H-pyrazol-5-yl)carbonyl]amino}-5-methylphenoxy)pyridin-2-yl]amino}carbonothioyl)carbamate | 4.76 mmol, 2.65 g | CN1N=C(C=C1C(=O)NC=1C=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C=C(C1)C)C | C22H24N6O4S
reactant | hydroxylammonium chloride | 42.5 mmol, 2.96 g | [Cl-].O[NH3+]
reactant | N,N-diisopropylethylamine | 28.7 mmol, 5.00 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethanol | 100 mL | C(C)O | C2H6O
solvent | methanol | 100 mL | CO | CH4O
product | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 1.29 g, 72% | NC1=NN2C(C=CC(=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)=N1 | C19H19N7O2
